US07595329B2
Step 5. 1-[4-({[(3-isopropyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)carbonyl]amino}methyl)piperidin-1-yl]cyclohexanecarboxylic acid hydrochloride
To a stirred solution of tert-butyl 1-[4-({[(3-isopropyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)carbonyl]amino}methyl)piperidin-1-yl]cyclohexanecarboxylate (400 mg, 0.802 mmol) in dichloromethane (5 mL) was added trifluoroacetic acid (5 mL, 65.2 mmol) at room temperature. After 12 h, the volatile components were removed under reduced pressure. To the residue was added 4N HCl in dioxane (5.0 mL) was added and stirred for 10 min. Then, the volatile was removed under reduced pressure.

reactant | tert-butyl 1-[4-({[(3-isopropyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)carbonyl]amino}methyl)piperidin-1-yl]cyclohexanecarboxylate | 0.802 mmol, 400 mg | C(C)(C)N1C(N(C2=C1C=CC=C2)C(=O)NCC2CCN(CC2)C2(CCCCC2)C(=O)OC(C)(C)C)=O | C28H42N4O4
reactant | trifluoroacetic acid | 65.2 mmol, 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-[4-({[(3-isopropyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)carbonyl]amino}methyl)piperidin-1-yl]cyclohexanecarboxylic acid hydrochloride | Cl.C(C)(C)N1C(N(C2=C1C=CC=C2)C(=O)NCC2CCN(CC2)C2(CCCCC2)C(=O)O)=O | InChI=1S/C24H34N4O4.ClH/c1-17(2)27-19-8-4-5-9-20(19)28(23(27)32)22(31)25-16-18-10-14-26(15-11-18)24(21(29)30)12-6-3-7-13-24;/h4-5,8-9,17-18H,3,6-7,10-16H2,1-2H3,(H,25,31)(H,29,30);1H
